.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-222_freq port1 port2 PARAMS: Cpar=0.85pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.035
+ C= {Cpar}
+ K1=0.00000001
+ K2=0.247
+ K3= {Ind}
+ K4=0.005
+ K5=0.0000092
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2593.695877
.ends MOS6020-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-222_imp port1 port2 PARAMS: Cpar=0.837pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.035
+ C= {Cpar}
+ K1=0.00000001
+ K2=0.247
+ K3= {Ind}
+ K4=0.005
+ K5=0.0000092
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2593.695877
.ends MOS6020-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-332_freq port1 port2 PARAMS: Cpar=0.823pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.046
+ C= {Cpar}
+ K1=0.0000365
+ K2=0.435
+ K3= {Ind}
+ K4=0.001
+ K5=0.000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3790.899246
.ends MOS6020-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-332_imp port1 port2 PARAMS: Cpar=0.822pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=120
+ R2=0.046
+ C= {Cpar}
+ K1=0.0000365
+ K2=0.435
+ K3= {Ind}
+ K4=0.001
+ K5=0.000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3790.899246
.ends MOS6020-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-472_freq port1 port2 PARAMS: Cpar=0.965pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.05
+ C= {Cpar}
+ K1=0.000082
+ K2=0.68
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5152.051312
.ends MOS6020-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-472_imp port1 port2 PARAMS: Cpar=0.925pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=120
+ R2=0.05
+ C= {Cpar}
+ K1=0.000082
+ K2=0.68
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5152.051312
.ends MOS6020-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-682_freq port1 port2 PARAMS: Cpar=1.19pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=132
+ R2=0.078
+ C= {Cpar}
+ K1=0.00001
+ K2=1.21
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7497.16976
.ends MOS6020-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-682_imp port1 port2 PARAMS: Cpar=1.146pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=132
+ R2=0.078
+ C= {Cpar}
+ K1=0.00001
+ K2=1.21
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7497.16976
.ends MOS6020-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-103_freq port1 port2 PARAMS: Cpar=1.42pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.092
+ C= {Cpar}
+ K1=0.00001
+ K2=1.45
+ K3= {Ind}
+ K4=0.059
+ K5=0.00000978
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8551.383529
.ends MOS6020-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-103_imp port1 port2 PARAMS: Cpar=1.37pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.092
+ C= {Cpar}
+ K1=0.00001
+ K2=1.45
+ K3= {Ind}
+ K4=0.059
+ K5=0.00000978
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8551.383529
.ends MOS6020-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-153_freq port1 port2 PARAMS: Cpar=1.31pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.13
+ C= {Cpar}
+ K1=0.000106
+ K2=2.11
+ K3= {Ind}
+ K4=0.086
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11918.69865
.ends MOS6020-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-153_imp port1 port2 PARAMS: Cpar=1.266pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.13
+ C= {Cpar}
+ K1=0.000106
+ K2=2.11
+ K3= {Ind}
+ K4=0.086
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11918.69865
.ends MOS6020-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-223_freq port1 port2 PARAMS: Cpar=1.5pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=66
+ R2=0.182
+ C= {Cpar}
+ K1=0.00001
+ K2=4.18
+ K3= {Ind}
+ K4=0.13
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20110.23225
.ends MOS6020-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-223_imp port1 port2 PARAMS: Cpar=1.45pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=66
+ R2=0.182
+ C= {Cpar}
+ K1=0.00001
+ K2=4.18
+ K3= {Ind}
+ K4=0.13
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20110.23225
.ends MOS6020-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-333_freq port1 port2 PARAMS: Cpar=1.51pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=110
+ R2=0.29
+ C= {Cpar}
+ K1=0.00001
+ K2=6.35
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000987
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26261.63613
.ends MOS6020-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-333_imp port1 port2 PARAMS: Cpar=1.453pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=110
+ R2=0.29
+ C= {Cpar}
+ K1=0.00001
+ K2=6.35
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000987
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26261.63613
.ends MOS6020-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-473_freq port1 port2 PARAMS: Cpar=1.85pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.42
+ C= {Cpar}
+ K1=0.00001
+ K2=7.54
+ K3= {Ind}
+ K4=0.306
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27852.89022
.ends MOS6020-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-473_imp port1 port2 PARAMS: Cpar=1.788pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.42
+ C= {Cpar}
+ K1=0.00001
+ K2=7.54
+ K3= {Ind}
+ K4=0.306
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27852.89022
.ends MOS6020-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-683_freq port1 port2 PARAMS: Cpar=1.81pF Ind=68uH
X1 port1 port2 Model1A PARAMS:
+ R1=115
+ R2=0.52
+ C= {Cpar}
+ K1=0.00001
+ K2=12.2
+ K3= {Ind}
+ K4=0.4
+ K5=0.00000988
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40594.00428
.ends MOS6020-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-683_imp port1 port2 PARAMS: Cpar=1.757pF Ind=68uH
X1 port1 port2 Model1D PARAMS:
+ R1=115
+ R2=0.52
+ C= {Cpar}
+ K1=0.00001
+ K2=12.2
+ K3= {Ind}
+ K4=0.4
+ K5=0.00000988
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40594.00428
.ends MOS6020-683_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-104_freq port1 port2 PARAMS: Cpar=1.52pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=94
+ R2=0.8
+ C= {Cpar}
+ K1=0.00001
+ K2=16.3
+ K3= {Ind}
+ K4=0.68
+ K5=0.00000987
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=54317.59943
.ends MOS6020-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-104_imp port1 port2 PARAMS: Cpar=1.47pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=94
+ R2=0.8
+ C= {Cpar}
+ K1=0.00001
+ K2=16.3
+ K3= {Ind}
+ K4=0.68
+ K5=0.00000987
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=54317.59943
.ends MOS6020-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-154_freq port1 port2 PARAMS: Cpar=1.94pF Ind=150uH
X1 port1 port2 Model1A PARAMS:
+ R1=240
+ R2=1.28
+ C= {Cpar}
+ K1=0.00001
+ K2=40
+ K3= {Ind}
+ K4=0.595
+ K5=0.0000102
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=88442.23871
.ends MOS6020-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-154_imp port1 port2 PARAMS: Cpar=1.905pF Ind=150uH
X1 port1 port2 Model1D PARAMS:
+ R1=240
+ R2=1.28
+ C= {Cpar}
+ K1=0.00001
+ K2=40
+ K3= {Ind}
+ K4=0.595
+ K5=0.0000102
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=88442.23871
.ends MOS6020-154_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-224_freq port1 port2 PARAMS: Cpar=2.12pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=350
+ R2=2
+ C= {Cpar}
+ K1=0.00001
+ K2=80
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000106
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=124983.0365
.ends MOS6020-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-224_imp port1 port2 PARAMS: Cpar=2.095pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=350
+ R2=2
+ C= {Cpar}
+ K1=0.00001
+ K2=80
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000106
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=124983.0365
.ends MOS6020-224_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-334_freq port1 port2 PARAMS: Cpar=1.84pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=400
+ R2=2.84
+ C= {Cpar}
+ K1=0.00001
+ K2=88
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=149058.8395
.ends MOS6020-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-334_imp port1 port2 PARAMS: Cpar=1.826pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=400
+ R2=2.84
+ C= {Cpar}
+ K1=0.00001
+ K2=88
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=149058.8395
.ends MOS6020-334_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MOS6020-474_freq port1 port2 PARAMS: Cpar=2.55pF Ind=470uH
X1 port1 port2 Model1A PARAMS:
+ R1=350
+ R2=4.4
+ C= {Cpar}
+ K1=0.00001
+ K2=280
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000143
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=279977.3454
.ends MOS6020-474_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MOS6020-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MOS6020-474_imp port1 port2 PARAMS: Cpar=2.536pF Ind=470uH
X1 port1 port2 Model1D PARAMS:
+ R1=350
+ R2=4.4
+ C= {Cpar}
+ K1=0.00001
+ K2=280
+ K3= {Ind}
+ K4=0.6
+ K5=0.0000143
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=279977.3454
.ends MOS6020-474_imp

